US06900213B2
A mixture of 4-iodobenzylamine (5.0 g, 21.5 mmol), tert-butylbromoacetate (4.19 g, 21.5 mmol), potassium carbonate (3.55 g, 21.5 mmol) in 40 mL of 1:1 toluene/water was stirred at room temperature for 16 h. The reaction mixture was extracted with ethyl acetate (100 mL×3) and the combined organic phase was washed with brine, dried over sodium sulfate, and evaporated to give an oil. Chromatography on silica gel gave 2.3 g (31%) of N-(4-iodobenzyl)glycine tert-butyl ester as a colorless oil.

reactant | 4-iodobenzylamine | 21.5 mmol, 5.0 g | IC1=CC=C(CN)C=C1 | C7H8IN
reactant | tert-butylbromoacetate | 21.5 mmol, 4.19 g | C(C)(C)(C)OC(CBr)=O | C6H11BrO2
reactant | potassium carbonate | 21.5 mmol, 3.55 g | C([O-])([O-])=O.[K+].[K+]
solvent | toluene water | 40 mL | C1(=CC=CC=C1)C.O
product | N-(4-iodobenzyl)glycine tert-butyl ester | 2.3 g, 31% | C(C)(C)(C)OC(CNCC1=CC=C(C=C1)I)=O | C13H18INO2
